US03988339
A mixture of 9.5 g. of 7-chloro-8-nitroisoquinoline, and 14.4 g. of zinc and 48 ml. of acetic acid in 450 ml. of ethanol and 70 ml. of water is heated on a steam bath for five minutes. The reaction mixture is cooled, made alkaline with aqueous ammonium hydroxide and extracted with ethyl acetate. The ethyl acetate is removed from the extract in vacuo to give, as the residue, 8-amino-7-chloroisoquinoline.

reactant | 7-chloro-8-nitroisoquinoline | ClC1=CC=C2C=CN=CC2=C1[N+](=O)[O-] | C9H5ClN2O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium hydroxide | [OH-].[NH4+]
catalyst | zinc | [Zn] | Zn
solvent | water | O | H2O
product | 8-amino-7-chloroisoquinoline | NC=1C(=CC=C2C=CN=CC12)Cl | C9H7ClN2
